US09079931B2
Preparation of (S)-1-phenyl-1,2-ethanediol
To a 100 mL autoclave with a stirrer, 2-hydroxyacetophenone (340 mg, 2.5 mmol) and RuCl[(S)-xylbinap][(S)-daipen] obtained from the Example 1 above (1.5 mg, 0.00125 mol, 1/2,000 molar fold of 2-hydroxyacetophenone) were added. After purging with nitrogen, methanol (1.25 mL) and 1,8-diazabicyclo[5.4.0]undeca-7-ene (1.9 mg, 0.0125 mmol) were added. Subsequently, purging with hydrogen, the mixture was stirred at 30° C. for 5 hours under hydrogen pressure of 1 MPa. As a result of analysis of the reaction solution by using gas chromatography (HP-1), the conversion rate was found to be 99% or more. The optical purity was measured by high performance liquid chromatography (CHIRALPAK AS-H, eluent; hexane:2-propanol=92:8), and it was found to be 94% ee.

reactant | methanol | 1.25 mL | CO | CH4O
reactant | 1,8-diazabicyclo[5.4.0]undeca-7-ene | 0.0125 mmol, 1.9 mg | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hexane | CCCCCC | C6H14
reactant | 2-propanol | CC(C)O | C3H8O
product | (S)-1-phenyl-1,2-ethanediol | C1(=CC=CC=C1)[C@@H](CO)O | C8H10O2
